US08431563B2
To a mixture of 4-(thiophen-2-ylsulfonyl)piperazin-2-one (2.1 g, 8.53 mmol), DMAP (1.04 g, 8.53 mmol, Sigma-Aldrich, St. Louis, Mo.), and triethylamine (1.19 mL, 8.53 mmol) in CH2Cl2 (30 mL) was added Boc2O (3.94 mL, 16.95 mmol, Sigma-Aldrich, St. Louis, Mo.). After 26 h at room is temperature, the mixture was diluted with EtOAc (40 mL) and washed with 1 N HCl (10 mL), water (2×10 mL), and saturated aqueous NaHCO3 (30 mL). The organic extracts were dried over Na2SO4, filtered, and concentrated. The solid was purified by chromatography on silica gel using (5 to 50% EtOAc in hexane) to give tert-butyl 2-oxo-4-(2-thiophenylsulfonyl)-1-piperazinecarboxylate (2.31 g) as a white powder.

reactant | 4-(thiophen-2-ylsulfonyl)piperazin-2-one | 8.53 mmol, 2.1 g | S1C(=CC=C1)S(=O)(=O)N1CC(NCC1)=O | C8H10N2O3S2
reactant | triethylamine | 8.53 mmol, 1.19 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 16.95 mmol, 3.94 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 8.53 mmol, 1.04 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 2-oxo-4-(2-thiophenylsulfonyl)-1-piperazinecarboxylate | 2.31 g | O=C1N(CCN(C1)S(=O)(=O)C=1SC=CC1)C(=O)OC(C)(C)C | C13H18N2O5S2
